US06903085B1
N′-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-2-[4-(trifluoromethoxy)phenoxy]acetohydrazide
The title compound was prepared from 3,4-dichlorobenzyl-4-piperidone (J. Med. Chem, 1999, 42, 3629; 100 mg), 2-[4(trifluoromethoxy)phenoxy]acetohydrazide (100 mg), sodium triacetoxyborohydride (100 mg), and 0.02 ml acetic acid, stirred together for 2 hours in dichloromethane by the method of Example 369 step ii. MS [M+H]+ (ES+) 492 1H NMR: (CDCl3) δ 1.4-1.6 (3H, m) 1.7 (2H, m), 2.0 (2H, m) 2.7-2.9 (2H, m), 3.4 (2H, m), 4.4 (3H, m), 5.3 (1H, s) 6.9 (2H, m), 7.2-7.5 (4H, m), 7.8 (1H, d).

reactant | 3,4-dichlorobenzyl-4-piperidone | 100 mg | ClC=1C=C(CN2CCC(CC2)=O)C=CC1Cl | C12H13Cl2NO
reactant | 2-[4(trifluoromethoxy)phenoxy]acetohydrazide | 100 mg | FC(OC1=CC=C(OCC(=O)NN)C=C1)(F)F | C9H9F3N2O3
reactant | sodium triacetoxyborohydride | 100 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N′-[1-(3,4-dichlorobenzyl)-4-piperidinyl]-2-[4-(trifluoromethoxy)phenoxy]acetohydrazide | ClC=1C=C(CN2CCC(CC2)NNC(COC2=CC=C(C=C2)OC(F)(F)F)=O)C=CC1Cl | C21H22Cl2F3N3O3
